US06498180B1
To a stirred solution of ethyl (1SR,5RS,6SR)-2-oxo-bicyclo[3.1.0]hexane-6-carboxylate (34.8 g, 207.2 mmol) in dichloromethane (300 mL), 70% m-chloroperbenzoic acid (51.1 g, 207.2 mmol) was added and refluxed overnight. The following day, additional 70% m-chloroperbenzoic acid (51.1 g, 207.2 mmol) was added and reflux continued for 15 hours. After that time, the mixture was diluted with dichloromethane (200 mL), filtered and washed with 10% Na2SO3 (2×200 mL) and with a saturated aqueous solution of sodium bicarbonate (2×200 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated in vacuo. The residue was purified by column chromatography using ethyl acetate and hexane 1:2 as eluent to give 22.89 g (60% yield) of ethyl (1SR,6SR,7SR)-2-oxo-3-oxa-bicyclo[4.1.0]heptane-7-carboxylate as a colorless oil.

reactant | ethyl (1SR,5RS,6SR)-2-oxo-bicyclo[3.1.0]hexane-6-carboxylate | 207.2 mmol, 34.8 g | O=C1C2C(C2CC1)C(=O)OCC | C9H12O3
reactant | m-chloroperbenzoic acid | 207.2 mmol, 51.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 207.2 mmol, 51.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | ethyl (1SR,6SR,7SR)-2-oxo-3-oxa-bicyclo[4.1.0]heptane-7-carboxylate | 22.89 g, 60% yield | O=C1C2C(C2CCO1)C(=O)OCC | C9H12O4
